US20010021718A1
5-{(1 R)-4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazole-3-carboxamide
A solution of (3R)-3-[3-(aminocarbonyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoic acid (Preparation 6) (6.00 g, 19.42 mmol) in anhydrous tetrahydrofuran (200 ml) was cooled to 0° C. then treated with N-methylmorpholine (2.40 ml, 22.0 mmol) and isobutyl chloroformate (2.8 ml, 22.0 mmol) and stirred under a nitrogen atmosphere for 1 hour. O-(Trimethylsilyl)hydroxylamine (7.0 ml, 60.0 mmol) was added and the mixture was stirred for 18 hours, being allowed to warm to room temperature over this time. The mixture was then treated with methanol (50 ml) and stirred for a further 30 minutes. This mixture was partitioned between ethyl acetate and water. The combined organic layers were washed with brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The solid was recrystallised from isopropyl acetate (500 ml) to afford the title compound as a white solid (4.46 g). Chiral HPLC analysis indicated this material to be 87.6% ee. A sample of this material (2.9 g) was dissolved in ethyl acetate (450 ml) at reflux then allowed to cool. The precipitate was filtered off and the solvent was removed from the filtrate under reduced pressure to afford a white solid, which was then recrystallised from isopropyl acetate (120 ml) to afford the title compound (1.42 g). Chiral HPLC analysis showed this material to be 98.3% ee.

reactant | (3R)-3-[3-(aminocarbonyl)-1,2,4-oxadiazol-5-yl]-6-cyclohexylhexanoic acid | 19.42 mmol, 6.00 g | NC(=O)C1=NOC(=N1)[C@@H](CC(=O)O)CCCC1CCCCC1 | C15H23N3O4
reactant | N-methylmorpholine | 22.0 mmol, 2.40 ml | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 22.0 mmol, 2.8 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | O-(Trimethylsilyl)hydroxylamine | 60.0 mmol, 7.0 ml | C[Si](ON)(C)C | C3H11NOSi
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | methanol | 50 ml | CO | CH4O
product | 5-{(1 R)-4-Cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazole-3-carboxamide | 4.46 g | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C(=O)N | C15H24N4O4
